### PR TITLE
[Merged by Bors] - chore: remove useless tactics

### PR DESCRIPTION
**Pull request by adomani**
The removal of some pointless tactics flagged by #11308.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Ordmap/Ordset.lean [hunk 1]
```diff
@@ -395,7 +395,8 @@ theorem node3R_size {l x m y r} : size (@node3R α l x m y r) = size l + size m
 
 theorem node4L_size {l x m y r} (hm : Sized m) :
     size (@node4L α l x m y r) = size l + size m + size r + 2 := by
-  cases m <;> simp [node4L, node3L, node'] <;> [skip; simp [size, hm.1]] <;> abel
+
```
Comment (grunweg) [inline Mathlib/Data/Ordmap/Ordset.lean:398]: Extra newline?

**Review by grunweg — APPROVED** [review]
I love the smell of deleted code in the evening. I'm amazed what gains new linters can yield :-)

File: Mathlib/Data/Ordmap/Ordset.lean (hunk 1 above)
Comment (adomani) [reply Mathlib/Data/Ordmap/Ordset.lean]: Yes, thanks!  Removed the extra line!

**Comment by adomani** [comment]
> I love the smell of deleted code in the evening. I'm amazed what gains new linters can yield :-)

Honestly, I was not expecting that so many `skip`s and various other unused tactics would be present...

File: Mathlib/CategoryTheory/Limits/FunctorCategory.lean [hunk 2]
```diff
@@ -321,7 +321,7 @@ theorem colimit_obj_ext {H : J ⥤ K ⥤ C} [HasColimitsOfShape J C] {k : K} {W
 
 instance evaluationPreservesLimits [HasLimits C] (k : K) :
     PreservesLimits ((evaluation K C).obj k) where
-  preservesLimitsOfShape {J} 𝒥 := by skip; infer_instance
+  preservesLimitsOfShape {_} _𝒥 := inferInstance
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/Limits/FunctorCategory.lean:324]: Doesn't `inferInstance` add extra junk that `by infer_instance` doesn't? Can you check the term is syntactically the same as it was before?

File: Mathlib/Data/Ordmap/Ordset.lean [hunk 3]
```diff
@@ -395,7 +395,7 @@ theorem node3R_size {l x m y r} : size (@node3R α l x m y r) = size l + size m
 
 theorem node4L_size {l x m y r} (hm : Sized m) :
     size (@node4L α l x m y r) = size l + size m + size r + 2 := by
-  cases m <;> simp [node4L, node3L, node'] <;> [skip; simp [size, hm.1]] <;> abel
+  cases m <;> simp [node4L, node3L, node'] <;> [abel; (simp [size, hm.1]; abel)]
```
Comment (YaelDillies) [inline Mathlib/Data/Ordmap/Ordset.lean:398]: Not sure that one is necessarily an improvement

File: Mathlib/LinearAlgebra/LinearIndependent.lean [hunk 4]
```diff
@@ -518,8 +518,7 @@ theorem linearIndependent_iUnion_of_directed {η : Type*} {s : η → Set M} (hs
     (h : ∀ i, LinearIndependent R (fun x => x : s i → M)) :
     LinearIndependent R (fun x => x : (⋃ i, s i) → M) := by
   by_cases hη : Nonempty η
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/LinearIndependent.lean:520]: You will be able to golf further by doing `cases isEmpty_or_nonempty η` instead of that `by_cases

File: Mathlib/SetTheory/Game/Short.lean [hunk 5]
```diff
@@ -205,9 +205,7 @@ instance listShortGet :
     ∀ (L : List PGame.{u}) [ListShort L] (i : Fin (List.length L)), Short (List.get L i)
   | [], _, n => by
     exfalso
-    rcases n with ⟨_, ⟨⟩⟩
-    -- Porting note: The proof errors unless `done` or a `;` is added after `rcases`
-    done
+    rcases n with ⟨_, ⟨⟩⟩;
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Game/Short.lean:208]: Seems like you haven't addressed the porting note, and removing `done` isn't a particularly great idea either.

I suggest you nolint `done` calls by default.

**Review by YaelDillies — COMMENTED** [review]
!bench

File: Mathlib/CategoryTheory/Limits/FunctorCategory.lean (hunk 2 above)
Comment (adomani) [reply Mathlib/CategoryTheory/Limits/FunctorCategory.lean:324]: In its current form (with `inferInstance`):
```lean
#print evaluationPreservesLimits

def CategoryTheory.Limits.evaluationPreservesLimits.{v₂, u₂, v, u} : {C : Type u} →
  [inst : Category.{v, u} C] →
    {K : Type u₂} →
      [inst_1 : Category.{v₂, u₂} K] → [inst_2 : HasLimits C] → (k : K) → PreservesLimits ((evaluation K C).obj k) :=
fun {C} [Category.{v, u} C] {K} [Category.{v₂, u₂} K] [HasLimits C] k ↦
  { preservesLimitsOfShape := fun {x} _𝒥 ↦ inferInstance }
```
As it was before the change:
```lean
#print evaluationPreservesLimits

def CategoryTheory.Limits.evaluationPreservesLimits.{v₂, u₂, v, u} : {C : Type u} →
  [inst : Category.{v, u} C] →
    {K : Type u₂} →
      [inst_1 : Category.{v₂, u₂} K] → [inst_2 : HasLimits C] → (k : K) → PreservesLimits ((evaluation K C).obj k) :=
fun {C} [Category.{v, u} C] {K} [Category.{v₂, u₂} K] [HasLimits C] k ↦
  { preservesLimitsOfShape := fun {J} 𝒥 ↦ inferInstance }
```
Seems that the only difference are the variable names.

File: Mathlib/Data/Ordmap/Ordset.lean (hunk 3 above)
Comment (adomani) [reply Mathlib/Data/Ordmap/Ordset.lean:398]: I am happy to revert it back to where it was, but it is shorter and produces the same proof.  (Really identical, very long, output of `#print`.)

File: Mathlib/LinearAlgebra/LinearIndependent.lean (hunk 4 above)
Comment (adomani) [reply Mathlib/LinearAlgebra/LinearIndependent.lean:520]: Ok, but I would definitely say that this is out of scope for this PR!

File: Mathlib/SetTheory/Game/Short.lean (hunk 5 above)
Comment (adomani) [reply Mathlib/SetTheory/Game/Short.lean:208]: Isn't the issue that `rcases` does not realize that its pattern is over, since `|` could be an `or`?  Again, I can put the porting note back, but replacing `done` by `;` also "fixes" the error.

Comment (adomani) [reply Mathlib/SetTheory/Game/Short.lean:208]: Here is an example:
```lean
example (x : Bool) (h : false ∨ true) : True := by
  match x with
    | true => rcases h with ⟨⟩
    | false  -- <--- this is still part of `rcases`: I am calling `false` the `true` proof! x)
              exact .intro  -- <--- the proof if `h` is `false`
              exact .intro  -- <--- the proof if `h` is `true`
    | false => exact .intro -- <--- the second `match` arm!

```

**Comment by riccardobrasca** [comment]
!bench

**Comment by YaelDillies** [comment]
Seems like some tactics weren't useless after all.

**Comment by adomani** [comment]
:facepalm: the file that slowed down is a file where I replaced some splits and assumptions into a single `aesop` call.  I reverted that change, since it was only flagged up by a `skip` and it should not be flagged by the second generation linter anyway!

**Comment by adomani** [comment]
!bench

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
